.subckt inv node_a node_out vdd gnd 

.INCLUDE '32nm_HP.pm'
.PARAM Lmin = 32n
.PARAM Wmin = 32n
.PARAM Ldiff = 64n

Mp1 node_out node_a vdd vdd pmos W={2*Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mn1 node_out node_a 0 0 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

* AS - source area
* PS - source perimeter
* AD - drain area
* PD - drain perimeter

.ends inv

